US09056859B2
[4-(1H-Tetrazol-1-yl)phenyl]acetic acid (303 mg, 1.48 mmol) was combined with benzyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (399 mg, 1.48 mmol), EDC (341 mg, 1.78 mmol), and triethylamine (0.248 mL, 1.78 mmol) in DCM (30 mL) and stirred overnight at room temperature. The mixture was washed with 1 M HCl solution, saturated sodium bicarbonate solution, and brine. The organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by MPLC eluting with a 0-5% gradient of methanol in ethyl acetate to afford benzyl 5-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate. LC/MS: [(M+1)]+=419;

reactant | [4-(1H-Tetrazol-1-yl)phenyl]acetic acid | 1.48 mmol, 303 mg | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)O | C9H8N4O2
reactant | benzyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 1.48 mmol, 399 mg | C12N(CC(NC1)C2)C(=O)OCC2=CC=CC=C2 | C13H16N2O2
reactant | EDC | 1.78 mmol, 341 mg
reactant | triethylamine | 1.78 mmol, 0.248 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | benzyl 5-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1C2CN(C(C1)C2)C(=O)OCC2=CC=CC=C2 | C22H22N6O3
